US07244745B2
To a solution of pyrazole (1.00 g, 14.7 mmol) in of dimethylformamide (10 mL) was added sodium hydride (60% oil dispersion, 450 mg, 11 mmol). After 5 min, bromomethylcyclohexane (2.4 mL, 17 mmol) was added by syringe and the mixture was maintained overnight. The reaction mixture was quenched with methanol, diluted with water, and extracted with ether (2×). The combined organic layers were dried over magnessium sulfate and concentrated in vacuo. The residue was purified by chromatography (95/5 hexanes/ethyl acetate) to provide 500 mg (27%) of 1-cyclohexylmethyl-1H-pyrazole. To a solution of 1-cyclohexylmethyl-1H-pyrazole (490 mg, 3.00 mmol) in tetrahydrofuran (10 mL) at −78° C. was added a 2.5 M solution of n-butyllithium in hexanes (1.5 mL, 3.8 mmol). The reaction mixture was maintained at −78° C. for 1 h and was treated with dimethylformamide (1.0 mL, 13 mmol). The reaction mixture was allowed to warm to rt, maintained overnight, and was quenched with methanol. The reaction mixture was diluted with water and was extracted with ether (2×). The combined organic layers were dried over magnessium sulfate and concentrated in vacuo. The residue was purified by chromatography (95/5 hexanes/ethyl acetate) to provide 390 mg (68%) of 2-cyclohexylmethyl-2H-pyrazole-3-carbaldehyde.

reactant | 1-cyclohexylmethyl-1H-pyrazole | 3.00 mmol, 490 mg | C1(CCCCC1)CN1N=CC=C1 | C10H16N2
reactant | n-butyllithium | C(CCC)[Li]
reactant | dimethylformamide | 13 mmol, 1.0 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-cyclohexylmethyl-2H-pyrazole-3-carbaldehyde | 390 mg, 68% | C1(CCCCC1)CN1N=CC=C1C=O | C11H16N2O
